US03952007
5-nitro-1-(2-benzoyloxyethyl)-2-(2-dimethylaminovinyl)-imidazole
27.5 g. (0.1 mole) of 5-nitro-2-methyl-1-(2-benzoyloxyethyl)-imidazole was reacted as indicated in Example 1. After cooling, the reaction solution was mixed with ethanol, and the precipitate was vacuum-filtered; m.p. 153°-154° C.

reactant | 5-nitro-2-methyl-1-(2-benzoyloxyethyl)-imidazole | 0.1 mole | [N+](=O)([O-])C1=CN=C(N1CCOC(C1=CC=CC=C1)=O)C | C13H13N3O4
solvent | ethanol | C(C)O | C2H6O
product | 5-nitro-1-(2-benzoyloxyethyl)-2-(2-dimethylaminovinyl)-imidazole | [N+](=O)([O-])C1=CN=C(N1CCOC(C1=CC=CC=C1)=O)C=CN(C)C | C16H18N4O4
